US06544985B2
3-(5-bromomethyl-2-methyl-thiazol-4-yl)-benzoic acid methyl ester was stirred in DMF (16 mL) together with KOAc (2.35 g) at 20° C. for 20 min. MeOH (32 mL) and naOMe (0.86 g) were added and stirring was continued at 50° C. for 30 min. The mixture was partitioned between AcOEt and brine and the organic layer was dried and evaporated. The residual oil was chromatographed on silica gel using AcOEt/hexane (1:1) as eluent to give 3-(5-hydroxymethyl-2-methyl-thiazol-4-yl)-benzoic acid methyl ester (2.93 g) as a white solid.

reactant | 3-(5-bromomethyl-2-methyl-thiazol-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1N=C(SC1CBr)C)=O | C13H12BrNO2S
reactant | KOAc | 2.35 g | CC(=O)[O-].[K+]
reactant | MeOH | 32 mL | CO | CH4O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 3-(5-hydroxymethyl-2-methyl-thiazol-4-yl)-benzoic acid methyl ester | 2.93 g | COC(C1=CC(=CC=C1)C=1N=C(SC1CO)C)=O | C13H13NO3S
